US08530480B2
3-bromo-5-morpholinobenzonitrile was prepared according procedure M from 3-bromo-5-fluorobenzonitrile and morpholine in 81% yield.

reactant | 3-bromo-5-fluorobenzonitrile | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-bromo-5-morpholinobenzonitrile | 81% yield | BrC=1C=C(C#N)C=C(C1)N1CCOCC1 | C11H11BrN2O
